US08236826B2
Production of 2-[4-(3-{4-[4-(3,4-dichlorobenzoylamino)-phenoxy]phenyl}propionyl)piperazin-1-yl]acetic acid hydrochloride
To a solution of ethyl 2-[4-(3-{4-[4-(3,4-dichlorobenzoylamino)phenoxy]phenyl}propionyl)piperazin-1-yl]acetate (0.493° g, 0.843 mmol) in THF (5 mL) and ethanol (5 mL) were added 5 M aqueous sodium hydroxide (0.253 mL, 1.27 mmol) and water (1 mL), and the resulting solution was refluxed for 1 hour. This reaction solution was concentrated under reduced pressure, and the residue was dissolved in 50% aqueous ethanol. To the resulting solution was added 5 M hydrochloric acid (0.253 mL, 1.27 mmol), and the obtained solid was collected by filtration. To this solid was dissolved in ethanol (10 mL) and 5 M hydrochloric acid (0.3 mL) by heating. The solvent was then evaporated, and the obtained solid was recrystallized from ethanol-diethyl ether, to thereby yield 0.381 g of the title compound.

reactant | ethyl 2-[4-(3-{4-[4-(3,4-dichlorobenzoylamino)phenoxy]phenyl}propionyl)piperazin-1-yl]acetate | 0.843 mmol | ClC=1C=C(C(=O)NC2=CC=C(OC3=CC=C(C=C3)CCC(=O)N3CCN(CC3)CC(=O)OCC)C=C2)C=CC1Cl | C30H31Cl2N3O5
reactant | sodium hydroxide | 1.27 mmol, 5 M, 0.253 mL | [OH-].[Na+]
reactant | water | 1 mL | O | H2O
reactant | hydrochloric acid | 1.27 mmol, 5 M, 0.253 mL | Cl | ClH
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-[4-(3-{4-[4-(3,4-dichlorobenzoylamino)-phenoxy]phenyl}propionyl)piperazin-1-yl]acetic acid hydrochloride | Cl.ClC=1C=C(C(=O)NC2=CC=C(OC3=CC=C(C=C3)CCC(=O)N3CCN(CC3)CC(=O)O)C=C2)C=CC1Cl | InChI=1S/C28H27Cl2N3O5.ClH/c29-24-11-4-20(17-25(24)30)28(37)31-21-5-9-23(10-6-21)38-22-7-1-19(2-8-22)3-12-26(34)33-15-13-32(14-16-33)18-27(35)36;/h1-2,4-11,17H,3,12-16,18H2,(H,31,37)(H,35,36);1H
